US08293919B2
To a solution of tert-butyl 4-(propylsulfonylmethyl)thiazol-2-ylcarbamate (16 mmol) in 1,4-dioxane (25 mL) was added 4N HCl in 1,4-dioxane (300 mL) and was stirred for 4 hours at 40° C. Removal of the volatiles afforded 4-(propylsulfonylmethyl)thiazol-2-amine HCl-salt (3.99 g, quant. yield) as a crème-colored solid.

reactant | tert-butyl 4-(propylsulfonylmethyl)thiazol-2-ylcarbamate | 16 mmol | C(CC)S(=O)(=O)CC=1N=C(SC1)NC(OC(C)(C)C)=O | C12H20N2O4S2
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 4-(propylsulfonylmethyl)thiazol-2-amine HCl-salt | 3.99 g, quant. yield | Cl.C(CC)S(=O)(=O)CC=1N=C(SC1)N | InChI=1S/C7H12N2O2S2.ClH/c1-2-3-13(10,11)5-6-4-12-7(8)9-6;/h4H,2-3,5H2,1H3,(H2,8,9);1H
